US08648099B2
Preparation of 5-(4-chlorophenyl)-N-morpholino-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and 4-morpholinamine (CAN 4319-49-7) as starting materials; LC-MS (UV peak area/ESI) 100%, 415.0911 (M−H)−.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | 4-morpholinamine | N1(CCOCC1)N | C4H10N2O
product | 5-(4-chlorophenyl)-N-morpholino-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCOCC1 | C18H17ClF3N3O3
